US03971806
5-[3(Dimethylamino)propyl]thiopyrano[3,2-b]indol-4(5H)-one hydrochloride
A mixture of 2.3 g (0.055 mole) of 50% sodium hydride in mineral oil, 50 ml of dimethylformamide (DMF) and 10.0 g (.05 mole) of thiopyrano [3,2-b]indol-4(5H)-one is stirred for 3 hours, then 12.2 g (0.1 mole) of dimethylamino-propylchloride is added. Stirring is continued for 20 hours at 95°, then the mixture is poured onto ice containing conc. HCl. The cloudy solution is clarified with charcoal, made basic with 20% sodium hydroxide solution, and the precipitated oil extracted with ether. The ether is dried, and dry HCl passed in. The precipitated salt weighed 10.1 g and is recrystallized from isopropanol, mp 226°-228°C.

reactant | sodium hydride | 0.055 mole, 2.3 g | [H-].[Na+]
reactant | thiopyrano [3,2-b]indol-4(5H)-one | .05 mole, 10.0 g | S1C=CC(C=2NC=3C=CC=CC3C21)=O | C11H7NOS
reactant | dimethylamino-propylchloride | 0.1 mole, 12.2 g | CN(C)CCCCl | C5H12ClN
reactant | charcoal | C | CH4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-[3(Dimethylamino)propyl]thiopyrano[3,2-b]indol-4(5H)-one hydrochloride | Cl.CN(CCCN1C2=C(C=3C=CC=CC13)SC=CC2=O)C | InChI=1S/C16H18N2OS.ClH/c1-17(2)9-5-10-18-13-7-4-3-6-12(13)16-15(18)14(19)8-11-20-16;/h3-4,6-8,11H,5,9-10H2,1-2H3;1H
